US04735940
A suspension of 0.376 g of [[(10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl]amino]acetonitrile in 10 ml of tetrahydrofuran was treated with 0.1 ml of formic acid-acetic acid anhydride and the clear yellow solution which formed after a short time was stirred at room temperature for 45 minutes. After evaporation the residue was taken up in chloroform, washed with 10 percent potassium bicarbonate solution and saturated sodium chloride solution, dried over magnesium sulfate, concentrated and purified by chromatography on silica gel with toluene/dioxane (9:1). N-[(10-Chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl]-N-(cyanomethyl)formamide formed a yellow resin.

reactant | [[(10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl]amino]acetonitrile | 0.376 g | ClC=1C=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)CNCC#N)C1 | C22H18ClN3O
reactant | formic acid acetic acid anhydride | 0.1 ml | C(=O)O.C(C)(=O)OC(C)=O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[(10-Chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl]-N-(cyanomethyl)formamide | ClC=1C=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)CN(C=O)CC#N)C1 | C23H18ClN3O2
